* SCT-013-030 current-sensing front-end -> STM32 ADC (PA1)
* --------------------------------------------------------
* The SCT-013-030 is a split-core CT with an INTERNAL burden resistor:
* it outputs 1 Vrms at 30 Arms of primary current. Here the load draws
* 10 Arms (2.3 kW at 230 V), so the CT outputs ~0.31 Vrms.
* Model: 2000:1 split-core CT (line conductor through the core) into the
* part's internal burden. Datasheet transfer 1 V / 30 A with a 2000:1
* winding implies an effective burden of 66.7R: 10 A / 2000 * 66.7R = 0.333 Vrms.
*   - the CT secondary is galvanically isolated, so its cold end is tied
*     straight to the 1.65 V mid-rail bias (shared with the V channel)
*   - R5/C2 anti-aliasing RC identical to the voltage channel so both
*     channels see the same phase shift (matters for real-power accuracy)
*
* Run:  ngspice -b sct013_frontend.cir
* Outputs: RMS/min/max at the ADC node + adc_i.txt sample dump.

* --- load current: 10 Arms, 50 Hz, lagging 18.2 deg (PF ~ 0.95) ---
* 18.2 deg lag expressed as a 1.0111 ms start delay so the source begins
* at its own zero crossing (a phase parameter would inject a DC step that
* takes ~L/R = 64 s to decay out of the CT secondary).
Iload   0     lp    SIN(0 14.142 50 1.0111m)

* --- SCT-013 split-core CT: 2000:1 into internal burden ---
* The load current flows straight through Lpri (the line conductor
* passing through the split core).
Lpri    lp    0     1m
Lsec    s1    bias  4000                    ; N^2 * Lpri, N = 2000
Ksct    Lpri  Lsec  0.9999
Rburden s1    bias  66.7                    ; internal burden of the -030

* --- 3.3 V rail and mid-rail bias ---
Vdd     vdd   0     DC 3.3
R3      vdd   bias  10k
R4      bias  0     10k
Cbias   bias  0     10u

* --- anti-aliasing filter into the ADC pin ---
R5      s1    adc_i 1k
C2      adc_i 0     100n                    ; ADC pin PA1

.tran 20u 300m 100m

.control
run
meas tran irms_v RMS v(adc_i) from=200m to=300m
meas tran imax_v MAX v(adc_i) from=200m to=300m
meas tran imin_v MIN v(adc_i) from=200m to=300m
meas tran ibias  AVG v(adc_i) from=200m to=300m
wrdata adc_i.txt v(adc_i)
.endc
.end
